US07858800B2
tert-Butyl 4-[1-(2-chloropyridin-3-yl)-5-methyl-1H-[1,2,3]triazol-4-yl)-piperazine-1-carboxylate
In a nitrogen atmosphere, 200 mg of tripotassium phosphate, 5 mg of copper(I) iodide and 0.1 ml of trans-1,2-diaminocyclohexane were successively added to a solution of 60 mg of 1-(2-chloropyridin-3-yl)-5-methyl-4-iodo-1H-[1,2,3]triazole and 50 mg of 4-(tert-butyloxycarbonyl)piperazin-2-one in 2 ml of dioxane and the mixture was stirred for one night at 90° C. After addition of water, the product was extracted with ethyl acetate and the organic layer washed with water and dried over sodium sulfate. A borane methyl sulfide complex (0.1 ml) was added to the residue after evaporation of the solvent in vacuo and the mixture was stirred at room temperature for 1 hour. After addition of pyridine, the residue prepared by evaporation in vacuo was purified by a preparative thin-layer silica gel chromatography (hexane:ethyl acetate=3:1) to give 7 mg of the title compound as a white solid.

reactant | tripotassium phosphate | 200 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-diaminocyclohexane | 0.1 ml | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | 1-(2-chloropyridin-3-yl)-5-methyl-4-iodo-1H-[1,2,3]triazole | 60 mg | ClC1=NC=CC=C1N1N=NC(=C1C)I | C8H6ClIN4
reactant | 4-(tert-butyloxycarbonyl)piperazin-2-one | 50 mg | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | copper(I) iodide | 5 mg | [Cu]I
solvent | water | O | H2O
product | tert-Butyl 4-[1-(2-chloropyridin-3-yl)-5-methyl-1H-[1,2,3]triazol-4-yl)-piperazine-1-carboxylate | 7 mg | ClC1=NC=CC=C1N1N=NC(=C1C)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23ClN6O2
